US04122260
7-[[(2-Formyl-1-pyrryl)acetyl]amino]-3-[[(1-methyltetrazol-5-yl)thio]methyl]-8oxo-5-thia-1-azabicyclo[4.2.0] -oct-2-ene-2-carboxylic acid acetyloxymethyl ester
The sodium salt of 7-[[(2-formyl-1-pyrryl]acetyl]-amino]-3-[[(1-methyltetrazol-5-yl)thio]methyl]-8oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, 3 grams, is added to about 40 ml of dry dimethylformamide (DMF) and stirred for 30 minutes. The 4.0 ml of chloromethyl acetate in 5 ml of DMF was added. This mixture is stirred for about 4 hours at room temperature. This mixture is diluted with ethyl acetate and thoroughly washed with water. The ethyl acetate portion is dried over sodium sulfate, filtered and evaporated to give the title compound.

reactant | sodium | [Na] | Na
reactant | 7-[[(2-formyl-1-pyrryl]acetyl]-amino]-3-[[(1-methyltetrazol-5-yl)thio]methyl]-8oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(=O)C=1N(C=CC1)CC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CSC1=NN=NN1C | C17H17N7O5S2
reactant | chloromethyl acetate | 4.0 ml | C(C)(=O)OCCl | C3H5ClO2
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | about 40 ml | CN(C=O)C | C3H7NO
product | 7-[[(2-Formyl-1-pyrryl)acetyl]amino]-3-[[(1-methyltetrazol-5-yl)thio]methyl]-8oxo-5-thia-1-azabicyclo[4.2.0] -oct-2-ene-2-carboxylic acid acetyloxymethyl ester | C(C)(=O)OCOC(=O)C=1N2C(C(C2SCC1CSC1=NN=NN1C)NC(CN1C(=CC=C1)C=O)=O)=O | C20H21N7O7S2
